US05648494
1-[2-Chloro-4-(4-fluorophenoxy)phenoxy]-2-ethylaminocarbonyloxyethane (Compound 1.2.4).
A solution of 1.41 g of potassium tert-butylate in 20 ml of dimethyl sulfoxide is added dropwise with stirring at 10°-15° C. to 2.86 g of 2-chloro-4-(4-fluorophenoxy)phenol in 10 ml of dimethyl sulfoxide. 2.92 g of 2-bromoethyl ethylcarbamate in 10 ml of dimethyl sulfoxide are subsequently added dropwise at room temperature and the mixture is then stirred for 18 hours at 40° C. The reaction mixture is then poured into 300 ml of ice-water and extracted several times using ether. The combined ether phases are washed to neutrality using a small amount of water and dried over sodium sulfate and the solvent is evaporated in vacuo. The crude product is purified on silica gel using diethyl ether/hexane (1:9) as eluent. This gives the title compound of melting point 42°-43° C.

reactant | potassium tert-butylate | 1.41 g | CC(C)(C)[O-].[K+]
reactant | 2-chloro-4-(4-fluorophenoxy)phenol | 2.86 g | ClC1=C(C=CC(=C1)OC1=CC=C(C=C1)F)O | C12H8ClFO2
reactant | 2-bromoethyl ethylcarbamate | 2.92 g | C(C)NC(OCCBr)=O | C5H10BrNO2
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 1-[2-Chloro-4-(4-fluorophenoxy)phenoxy]-2-ethylaminocarbonyloxyethane | ClC1=C(OCCOC(=O)NCC)C=CC(=C1)OC1=CC=C(C=C1)F | C17H17ClFNO4
